US05139565
12.8 g of 2-chloro-6-methylpyridine, 18 g of anhydrous potassium carbonate and 100 ml of dimethylsulfoxide were mixed to obtain a suspension. This suspension was preliminarily heated to a temperature of from 120° to 130° C., and 10 ml of a dimethylsulfoxide solution of 18.6 g of benzyl mercaptan was dropwise added thereto over a period of about 30 minutes. Then, the mixture was reacted at 150° C. for about one hour. Thereafter, the reaction solution was cooled, then put into water and extracted with methylene chloride. The methylene chloride layer was dried over anhydrous sodium sulfate, and then methylene chloride was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 7.53 g of oily 2-benzylthio-6-methylpyridine.

reactant | 2-chloro-6-methylpyridine | 12.8 g | ClC1=NC(=CC=C1)C | C6H6ClN
reactant | potassium carbonate | 18 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
reactant | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
reactant | benzyl mercaptan | 18.6 g | C(C1=CC=CC=C1)S | C7H8S
solvent | water | O | H2O
product | 2-benzylthio-6-methylpyridine | 7.53 g | C(C1=CC=CC=C1)SC1=NC(=CC=C1)C | C13H13NS
